US07491735B2
Using general procedure A, benzylamine (1.2 mL, 11 mmol) and 1-Boc-4-piperidone (2.0 g, 10 mmol) gave 4-benzylamino-piperidine-1-carboxylic acid tert-butyl ester as a white solid (2.93 g, 100%).

reactant | benzylamine | 11 mmol, 1.2 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-Boc-4-piperidone | 10 mmol, 2.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-benzylamino-piperidine-1-carboxylic acid tert-butyl ester | 2.93 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=CC=CC=C1 | C17H26N2O2
